US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(1-OXIDOPYRIDIN-4-YL)METHYL]AMINE
This compound was prepared according to the procedure of example 66, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and 1-oxidopyridin-4-yl benzaldehyde. MS (ESI) m/z 484.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 1-oxidopyridin-4-yl benzaldehyde | [O-][N+]1=CC=C(C=C1)C1=C(C=O)C=CC=C1 | C12H9NO2
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(1-OXIDOPYRIDIN-4-YL)METHYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=[N+](C=C1)[O-])C(F)(F)F | C29H22F3N3O
